US09290468B2
Step 4: benzyl 5-benzyloxy-3,4-difluoro-2-((2-fluorophenyl)amino)benzoate
To a solution of 5-benzyloxy-3,4-difluoro-2-((2-fluorophenyl)amino)benzoic acid (19.17 g, 51.35 mmol) in DMF (150 mL) was added potassium bicarbonate (6.16 g, 61.62 mmol) followed by benzyl bromide (6.2 mL, 51.41 mmol). The mixture was stirred for 5 h at room temperature and water was added. The solution was extracted with ethyl acetate (100 mL×3). The combined organic extracts were washed with water (100 mL) and brine (100 mL) sequentially, dried over Na2SO4, filtered and concentrated in vacuo. After purification by column chromatography on silica gel (petroleum ether/ethyl acetate, 50:1, v/v), the corresponding product was obtained as white solid (21.42 g, 90% yield). 1H NMR (400 MHz, CDCl3): δ 8.51 (s, 1H), 7.51 (dd, J=8.5, 2.1 Hz, 1H), 7.41 (m, 10H), 7.09 (m, 1H), 7.03 (m, 1H), 6.94 (m, 1H), 6.85 (m, 1H), 5.33 (s, 2H), 5.15 (s, 2H).

reactant | 5-benzyloxy-3,4-difluoro-2-((2-fluorophenyl)amino)benzoic acid | 51.35 mmol, 19.17 g | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)O)C1)NC1=C(C=CC=C1)F)F)F | C20H14F3NO3
reactant | potassium bicarbonate | 61.62 mmol, 6.16 g | C([O-])(O)=O.[K+]
reactant | benzyl bromide | 51.41 mmol, 6.2 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | O | H2O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
product | benzyl 5-benzyloxy-3,4-difluoro-2-((2-fluorophenyl)amino)benzoate | 21.42 g, 90% yield | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)OCC2=CC=CC=C2)C1)NC1=C(C=CC=C1)F)F)F | C27H20F3NO3
